US07329656B2
A mixture of N-(4-methyl-3-(4-piperidyl)phenyl)(phenylmethoxy)carboxamide (324 mg, 1.00 mmol) and 4-(4-methoxyphenylthio)benzaldehyde (244 mg, 1.00 mmol), dichloroethane (5.00 mL), acetic acid (60.0 mg, 1.00 mmol) and sodium triacetoxborohydride (424 mg, 2.00 mmol) was stirred under nitrogen at room temperature for 18 h. Saturated NaHCO3 solution and CH2Cl2 was added. The mixture was separated, and the organic layer was washed with water (10 mL), dried over Na2SO4 and concentrated in vacuo. Purification by flash column chromatography (eluent: cyclohexane:EtOAc (85:15 then 7:3)) gave N-[3-(1-{[4-(4-methoxyphenylthio)phenyl]methyl}(4-piperidyl))-4-methylphenyl](phenylmethoxy) carboxamide (486 mg, 88.0% yield) as a white foam. ESMS m/e: 553.2 (M+H)+.

reactant | N-(4-methyl-3-(4-piperidyl)phenyl)(phenylmethoxy)carboxamide | 1.00 mmol, 324 mg | CC1=C(C=C(C=C1)NC(=O)OCC1=CC=CC=C1)C1CCNCC1 | C20H24N2O2
reactant | 4-(4-methoxyphenylthio)benzaldehyde | 1.00 mmol, 244 mg | COC1=CC=C(C=C1)SC1=CC=C(C=O)C=C1 | C14H12O2S
reactant | dichloroethane | 5.00 mL | ClC(C)Cl | C2H4Cl2
reactant | acetic acid | 1.00 mmol, 60.0 mg | C(C)(=O)O | C2H4O2
reactant | sodium | [Na] | Na
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | cyclohexane EtOAc | C1CCCCC1.CCOC(=O)C
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-[3-(1-{[4-(4-methoxyphenylthio)phenyl]methyl}(4-piperidyl))-4-methylphenyl](phenylmethoxy) carboxamide | 486 mg, 88.0% yield | COC1=CC=C(C=C1)SC1=CC=C(C=C1)CN1CCC(CC1)C=1C=C(C=CC1C)NC(=O)OCC1=CC=CC=C1 | C34H36N2O3S
